US04182758
N-(p-methoxybenzyloxy)-p-toluenesulfonamide (61.4 g) was added to a solution of sodium ethoxide in absolute ethanol (Na:4.6 g, absolute C2H5OH:540 ml) and stirred at 70° C. for 1.5 hours. After cooling at ambient temperature, 1,3-dibromopropane (121.2 g) was added to the mixture, and then the mixture was refluxed with stirring for 2 hours and filtered. The filtrate was concentrated under reduced pressure. To the residue was added a mixture of ethyl acetate and water, and the organic layer was separated, dried over magnesium sulfate and evaporated to dryness under reduced pressure to give an oil, which was crystallized from a mixture of ethyl acetate and n-hexane to give N-(3-bromopropyl)-N-(p-methoxybenzyloxy)-p-toluenesulfonamide (75.1 g).

reactant | N-(p-methoxybenzyloxy)-p-toluenesulfonamide | 61.4 g | COC1=CC=C(CONS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C15H17NO4S
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 1,3-dibromopropane | 121.2 g | BrCCCBr | C3H6Br2
solvent | ethanol | 540 ml, 4.6 g | C(C)O | C2H6O
product | N-(3-bromopropyl)-N-(p-methoxybenzyloxy)-p-toluenesulfonamide | 75.1 g | BrCCCN(S(=O)(=O)C1=CC=C(C=C1)C)OCC1=CC=C(C=C1)OC | C18H22BrNO4S
